US04144283
One hundred and thirty-six (136) parts of 4-methoxyresorcine and 1.0 part of sodium hydroxide were reacted with 564 parts of propylene oxide at not higher than 5 kg/cm2, at 120°-150° C. for 45 minutes in the same manner as in Example 1 to produce a 4-methoxyresorcine-propylene oxide adduct (the average amount added, n=5) which was a light-yellow viscous liquid.

reactant | 4-methoxyresorcine | COC1=C(C=C(O)C=C1)O | C7H8O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | propylene oxide | C1C(C)O1 | C3H6O
product | 4-methoxyresorcine propylene oxide | COC1=C(C=C(O)C=C1)O.C1C(C)O1 | InChI=1S/C7H8O3.C3H6O/c1-10-7-3-2-5(8)4-6(7)9;1-3-2-4-3/h2-4,8-9H,1H3;3H,2H2,1H3
